US07153854B2
A solution of tert-butyl 3-bromo-5-[3-cyano-7-ethyl-2-(1-pyrrolidinyl)pyrrolo[1,2-b]pyridazin-4-yl]benzoate (16.0 mg) in trifluoroacetic acid (0.5 mL) was stirred for 0.5 hour at room temperature. The reaction was quenched by adding water. The mixture was neutralized by adding NaOH (pH=3). The mixture was extracted with EtOAc. The extract was washed with brine, dried over MgSO4, and evaporated to give a greenish yellow solid. The solid was triturated in hexanes-CHCl3 (2-1) to afford 3-bromo-5-[3-cyano-7-ethyl-2-(1-pyrrolidinyl)pyrrolo[1,2-b]pyridazin-4-yl]benzoic acid as an yellow powder (10.8 mg).

reactant | tert-butyl 3-bromo-5-[3-cyano-7-ethyl-2-(1-pyrrolidinyl)pyrrolo[1,2-b]pyridazin-4-yl]benzoate | 16.0 mg | BrC=1C=C(C(=O)OC(C)(C)C)C=C(C1)C=1C=2N(N=C(C1C#N)N1CCCC1)C(=CC2)CC | C25H27BrN4O2
solvent | trifluoroacetic acid | 0.5 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 3-bromo-5-[3-cyano-7-ethyl-2-(1-pyrrolidinyl)pyrrolo[1,2-b]pyridazin-4-yl]benzoic acid | 10.8 mg | BrC=1C=C(C(=O)O)C=C(C1)C=1C=2N(N=C(C1C#N)N1CCCC1)C(=CC2)CC | C21H19BrN4O2
